US08614234B2
A mixture of 3-(2-Chloropyridin-4-yloxy)-4-fluoro-N-(2-fluoro-5-methylphenyl)benzamide (1.217 g, 3.25 mmol), methyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrole-3-carboxylate (1.63 g, 6.50 mmol) and potassium carbonate (0.67 g, 4.87 mmol) in water (2.5 mL) and dioxane (15 mL) was purged with nitrogen for several minutes. To the mixture was added tetrakis-triphenylphosphine palladium(0) (0.18 g, (0.16 mmol). The reaction was sealed under nitrogen and heated at 100° C. for 15 h. The cooled reaction was mixed with dichloromethane and filtered through Celite. The red solution was evaporated. The resulting oil was dissolved in dichloromethane, put on a column of silica gel (80 g) and eluted with hexane/EtOAc (1:1) to afford methyl 5-[4-(2-fluoro-5-{[(2-fluoro-5-methylphenyl)amino]carbonyl}phenoxy)pyridin-2-yl]-1H-pyrrole-3-carboxylate as white solid. Yield: 1.162 g, 77%.

reactant | 3-(2-Chloropyridin-4-yloxy)-4-fluoro-N-(2-fluoro-5-methylphenyl)benzamide | 3.25 mmol, 1.217 g | ClC1=NC=CC(=C1)OC=1C=C(C(=O)NC2=C(C=CC(=C2)C)F)C=CC1F | C19H13ClF2N2O2
reactant | methyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrole-3-carboxylate | 6.50 mmol, 1.63 g | CC1(OB(OC1(C)C)C1=CC(=CN1)C(=O)OC)C | C12H18BNO4
reactant | potassium carbonate | 4.87 mmol, 0.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | water | 2.5 mL | O | H2O
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | methyl 5-[4-(2-fluoro-5-{[(2-fluoro-5-methylphenyl)amino]carbonyl}phenoxy)pyridin-2-yl]-1H-pyrrole-3-carboxylate | FC1=C(OC2=CC(=NC=C2)C2=CC(=CN2)C(=O)OC)C=C(C=C1)C(=O)NC1=C(C=CC(=C1)C)F | C25H19F2N3O4
